US06667301B2
A mixture of [(S)-2-(4-methanesulfonylphenyl)-1-methylethyl]-propylamine hydrochloride (2.05 g, 7.03 mmole), triethylamine (0.98 mL, 7 mmole), 5-oxo-4-(4-oxobutyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (2.0 g, 7.03 mmole), and sodium triacetoxyborohydride (2.23 g, 10.5 mmole) in 1,2-dichloroethane (40 mL) was stirred at room temperature for 15 hours. The mixture was concentrated, and the residue was partitioned between diethyl ether and saturated sodium carbonate. The organic phase was dried (magnesium sulfate) and concentrated to give 4-(4-{[(S)-2-(4-methane-sulfonylphenyl)-1-methylethyl]propyl-amino}butyl)-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester (3.6 g) as a heavy syrup. M+H=524. The hydrochloride salt was recrystallized from acetone/diethyl ether, m.p. 156-158° C.

reactant | [(S)-2-(4-methanesulfonylphenyl)-1-methylethyl]-propylamine hydrochloride | 7.03 mmole, 2.05 g | Cl.CS(=O)(=O)C1=CC=C(C=C1)C[C@H](C)NCCC
reactant | triethylamine | 7 mmole, 0.98 mL | C(C)N(CC)CC | C6H15N
reactant | 5-oxo-4-(4-oxobutyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 7.03 mmole, 2.0 g | C(C)(C)(C)OC(=O)N1CCN(C(CC1)=O)CCCC=O | C14H24N2O4
reactant | sodium triacetoxyborohydride | 10.5 mmole, 2.23 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | 4-(4-{[(S)-2-(4-methane-sulfonylphenyl)-1-methylethyl]propyl-amino}butyl)-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 3.6 g | C(C)(C)(C)OC(=O)N1CCN(C(CC1)=O)CCCCN(CCC)[C@H](CC1=CC=C(C=C1)S(=O)(=O)C)C | C27H45N3O5S
